US06265578B1
To a suspension of NaH (144 mg of 60% in mineral oil washed with hexanes, 86.4 mg, 3.6 mmol) in dry THF (20 mL) was carefully added dimethyl 2-(4-phenoxyphenyl)malonate (900 mg, 3.0 mmol). The resulting mixture was stirred at room temperature for 1 hour and then 1-iodohexane (1.27 g, 0.89 mL, 6.0 mmol) was added. The reaction mixture was stirred at room temperature for 1 hour and then heated to reflux overnight . The reaction was cooled to room temperature and quenched with 1N HCl (20 mL) and extracted with ether (2×40 mL). The combined organic extracts were washed with saturated Na2S2O3, water, then brine, dried (Na2SO4), concentrated, and purified by chromatography using a Chromatotron with a silica gel plate (4000 micron) eluted with 13% EtOAc/hexanes to give 950 mg of dimethyl 2-(4-phenoxyphenyl)-2-n-hexylmalonate as a viscous oil. 1H NMR (200 mHz, CDCl3) δ 7.39-6.92 (9H, m), 3.75 (6H, s), 2.10 (2H, t), 1.29 (8H, m), 0.87 (3H, t).

reactant | NaH | 3.6 mmol, 144 mg | [H-].[Na+]
reactant | dimethyl 2-(4-phenoxyphenyl)malonate | 3.0 mmol, 900 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C17H16O5
reactant | 1-iodohexane | 6.0 mmol, 0.89 mL, 1.27 g | ICCCCCC | C6H13I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | dimethyl 2-(4-phenoxyphenyl)-2-n-hexylmalonate | 950 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OC)(C(=O)OC)CCCCCC | C23H28O5
